US07495018B2
2-(4-methylsulfonylphenyl)-4-(3-methylphenyl)-5-[2-(1-pyrrolidinylmethyl)-4-pyridyl]-1,3-thiazole dihydrochloride
To a solution of 4-[4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazol-5-yl]-2-pyridylmethanol (0.43 g, 1.0 mmol) in tetrahydrofuran (20 mL) was added thionyl chloride (0.08 mL, 1.0 mmol), and the mixture was stirred for 20 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was added to a suspension of pyrrolidine (0.09 mL, 1.1 mmol) and potassium carbonate (0.36 g, 2.6 mmol) in N,N-dimethylformamide (10 mL), and the mixture was stirred for 27 hours at room temperature. To the mixture was added an aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extracts were washed with brine, dried over magnesium sulfate, and filtrated and concentrated under reduced pressure. The residue was purified by column chromatography (filler: Chromatorex NH DM1020 (trade name, manufactured by Fuji Silysia Chemical Ltd.), hexane-ethyl acetate=1:2). The resulted oil was dissolved in methanol (10 mL), and to this was added a 10% hydrogen chloride-methanol solution (5 mL), and the mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated under reduced pressure, and the resulting solid was washed with ethanol, to obtain a title compound (yield 17%).

reactant | 4-[4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazol-5-yl]-2-pyridylmethanol | 1.0 mmol, 0.43 g | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)CO)C1=CC=C(C=C1)S(=O)(=O)C | C23H20N2O3S2
reactant | thionyl chloride | 1.0 mmol, 0.08 mL | S(=O)(Cl)Cl | Cl2OS
reactant | pyrrolidine | 1.1 mmol, 0.09 mL | N1CCCC1 | C4H9N
reactant | potassium carbonate | 2.6 mmol, 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(4-methylsulfonylphenyl)-4-(3-methylphenyl)-5-[2-(1-pyrrolidinylmethyl)-4-pyridyl]-1,3-thiazole dihydrochloride | yield 17% | Cl.Cl.CS(=O)(=O)C1=CC=C(C=C1)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)CN1CCCC1 | InChI=1S/C27H27N3O2S2.2ClH/c1-19-6-5-7-21(16-19)25-26(22-12-13-28-23(17-22)18-30-14-3-4-15-30)33-27(29-25)20-8-10-24(11-9-20)34(2,31)32;;/h5-13,16-17H,3-4,14-15,18H2,1-2H3;2*1H
